US07910578B2
10-Methyl-8-(6-thiophen-3-yl-pyridazin-3-yl)-8,10-diaza -bicyclo[4.3.1]decane Fumaric Acid Salt (Compound D1)
A mixture of 8-(6-iodo-pyridazin-3-yl)-10-methyl-8,10-diaza -bicyclo[4.3.1]-decane (1.5 g, 4.19 mmol), 3-thiopheneboronic acid (1.62 g, 12.56 mmol), potassium carbonate (1.74 g, 12.56 mmol), palladacycle (78 mg, 0.084 mmol), Pd(PPh3)4 (97 mg, 0.084 mmol), bis(tri-t-butylphosphine)palladium(0) (43 mg, 0.084 mmol), 1,3-propandiol (0.93 g, 12.6 mmol), DME (60 ml) and water (30 ml) was stirred at reflux for 40 h. Aqueous sodium hydroxide (40 ml, 1 M) was added followed by evaporation of the dioxane and extraction with chloroform (3×40 ml). Chromatography on silica gel with dichloromethane, 10% methanol and 1% aqueous ammonia as solvent gave the title compound as an oil. Yield 0.68 g, 52%. The corresponding salt was obtained by addition of a diethyl ether and methanol mixture (9:1) saturated with fumaric acid. LC-ESI -HRMS of [M+H]+ shows 315.1642 Da. Calc. 315.164342 Da, dev. −0.5 ppm

reactant | 8-(6-iodo-pyridazin-3-yl)-10-methyl-8,10-diaza -bicyclo[4.3.1]-decane | 4.19 mmol, 1.5 g | IC1=CC=C(N=N1)N1CC2CCCCC(C1)N2C | C13H19IN4
reactant | 3-thiopheneboronic acid | 12.56 mmol, 1.62 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 12.56 mmol, 1.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-propandiol | 12.6 mmol, 0.93 g | C(CCO)O | C3H8O2
reactant | sodium hydroxide | 1 M, 40 ml | [OH-].[Na+]
catalyst | Pd(PPh3)4 | 0.084 mmol, 97 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.084 mmol, 43 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | water | 30 ml | O | H2O
solvent | DME | 60 ml | COCCOC | C4H10O2
product | 10-Methyl-8-(6-thiophen-3-yl-pyridazin-3-yl)-8,10-diaza -bicyclo[4.3.1]decane Fumaric Acid Salt | C(\C=C\C(=O)O)(=O)O.CN1C2CCCCC1CN(C2)C=2N=NC(=CC2)C2=CSC=C2 | InChI=1S/C17H22N4S.C4H4O4/c1-20-14-4-2-3-5-15(20)11-21(10-14)17-7-6-16(18-19-17)13-8-9-22-12-13;5-3(6)1-2-4(7)8/h6-9,12,14-15H,2-5,10-11H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
